US05175166
Amino(1-triphenylmethyl-1,4,5,6-tetrahydropyrimidin-5-yl)acetamide
Amino(1,4,5,6-tetrahydropyrimidine-5-yl)acetamide dihydrochloride (1.33 g, 5.8 mmol), diazabicycloundecene (DBU, 2.6 ml, 17.4 mmol), and tritylchloride (1.61 g, 5.8 mmol) are dissolved in anhydrous DMF (20 ml) with stirring under nitrogen at room temperature. After 18 hours stirring the suspension is evaporated in vacuo, and the residue chromatographed (silica, chloroform/methanol, 9:1) to yield 1.64 g (71%) white crystalline solid, identified by 300 MHz nmr and ms m/z=398.

reactant | Amino(1,4,5,6-tetrahydropyrimidine-5-yl)acetamide dihydrochloride | 5.8 mmol, 1.33 g | Cl.Cl.NC(C(=O)N)C1CN=CNC1
reactant | diazabicycloundecene | 17.4 mmol, 2.6 ml | C1(=NNCCCCCCCC1)C1=CCCCCCCCCC1 | C20H36N2
reactant | tritylchloride | 5.8 mmol, 1.61 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | Amino(1-triphenylmethyl-1,4,5,6-tetrahydropyrimidin-5-yl)acetamide | 1.64 g, 71% | NC(C(=O)N)C1CN=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C25H26N4O
